US07335671B2
(1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]cyclo-propanecarboxylic acid
56 mg of ethyl (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol4-ylmethoxy)-cyclohexyloxymethyl]cyclopropanecarboxylate are dissolved in 3 ml of methanol, 0.5 ml of 5N NaOH is added and the mixture is stirred at room temperature for 18 h. The solvent is removed under reduced pressure and the residue is acidified with trifluoroacetic acid and purified by RP-HPLC. This gives (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]cyclopropanecarboxylic acid as a colorless oil. C23H29NO5 (399.49), MS (ESI): 400 (M+H+).

reactant | ethyl (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol4-ylmethoxy)-cyclohexyloxymethyl]cyclopropanecarboxylate | 56 mg | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC1(CC1)C(=O)OCC | C25H33NO5
reactant | NaOH | 5N, 0.5 ml | [OH-].[Na+]
solvent | methanol | 3 ml | CO | CH4O
product | (1R,3S)-1-[3-(5-methyl-2-m-tolyloxazol-4-ylmethoxy)cyclohexyloxymethyl]cyclo-propanecarboxylic acid | CC1=C(N=C(O1)C=1C=C(C=CC1)C)CO[C@@H]1C[C@@H](CCC1)OCC1(CC1)C(=O)O | C23H29NO5
